US08748632B2
Preparation of Methyl 4-(4-bromobutoxy)-3-methoxybenzoate
Potassium carbonate (0.758 g, 0.48 mmol) was added to a solution of 1,4-dibromo butane (1.18 g, 5.49 mmol) and methyl 4-hydroxy-3-methoxybenzoate (0.5 g, 2.74 mmol) in CH3CN (10 mL). After stirring for 12 h at 80° C., the organic phase was evaporated under reduced pressure and the crude material was partitioned between water and CH2Cl2. The aqueous layer was extracted with CH2Cl2 (3×20 mL). The organic phase was dried using Na2SO4 and evaporated to give the crude methyl 4-(4-bromobutoxy)-3-methoxybenzoate which was purified by column chromatography using hexanes:ethyl acetate to give the pure product as a colorless solid (0.692 g, 80%). 1H NMR (400 MHz, CDCl3): δ 7.61 (d, 1H, J=8.3 Hz), 7.51 (s, 1H), 6.83 (d, 1H, J=8.2 Hz), 4.07 (t, 2H, J=5.7 Hz), 3.87 (s, 3H), 3.85 (s, 3H), 3.47 (t, 2H, J=6.4 Hz), 2.04-2.00 (m, 4H). LC-MS (ESI) Calcd for C13H17BrO4 [M+H]+: 317.03, 319.03. Found: 316.90, 318.90.

reactant | Potassium carbonate | 0.48 mmol, 0.758 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,4-dibromo butane | 5.49 mmol, 1.18 g | BrCCCCBr | C4H8Br2
reactant | methyl 4-hydroxy-3-methoxybenzoate | 2.74 mmol, 0.5 g | OC1=C(C=C(C(=O)OC)C=C1)OC | C9H10O4
solvent | CH3CN | 10 mL | CC#N | C2H3N
product | Methyl 4-(4-bromobutoxy)-3-methoxybenzoate | 0.692 g, 80% | BrCCCCOC1=C(C=C(C(=O)OC)C=C1)OC | C13H17BrO4
